US08871753B2
Step E: Methyl [7-({3-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl]acetate
The desired compound was prepared according to the procedure of Example B5, step C, using methyl (7-iodo-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate and tert-butyl (3-ethynylphenyl)carbamate as the starting materials in quantitative yield. LCMS for C23H21N3O8Na (M+Na)+: m/z=490.0.

reactant | methyl (7-iodo-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate | IC1=CC(=CC=2N(C(OC21)=O)CC(=O)OC)[N+](=O)[O-] | C10H7IN2O6
reactant | tert-butyl (3-ethynylphenyl)carbamate | C(#C)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C13H15NO2
product | Methyl [7-({3-[(tert-butoxycarbonyl)amino]phenyl}ethynyl)-5-nitro-2-oxo-1,3-benzoxazol-3(2H)-yl]acetate | quantitative yield | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C#CC1=CC(=CC=2N(C(OC21)=O)CC(=O)OC)[N+](=O)[O-] | C23H21N3O8
